* C:\Users\Cedric\Documents\manufacturable-ventilator\ltspice\bubble_volume_test.asc
VDplus step 0 1.405
Valph alph 0 0.20944
VBeta beta 0 0.0160524
Varea N001 0 13.921875
XX1 alph beta step N001 R theta arc x bubble_volume

* block symbol definitions
.subckt bubble_volume alph beta step area r theta arc x
XX3 area nc
XX5 alph beta step min_area min_radius N001 NC_01 NC_02 bubble_volume_theta
Bpi N001 0 V=pi
XX1 alph beta step bubble_area r theta arc x bubble_volume_r
Br 0 r I=v(r)+if(v(r) > v(min_radius), v(bubble_area) - max(v(area), v(min_area)), v(r) - v(min_radius) - epsilon) rpar=1
.param epsilon=0.00001
.ends bubble_volume

.subckt nc x
XX1 x NC_01 id
.ends nc

.subckt bubble_volume_theta alph beta step area r theta arc x
Bx 0 NC_01 I=cos(v(beta)-(v(alph)+v(beta)+v(theta))/2)*v(step)/sin((v(alph)+v(beta)+v(theta))/2-v(alph)-v(beta)) rpar=1
Br 0 r I=cos(v(alph))*v(step)/(cos(v(alph)+v(beta))-cos(v(theta))) rpar=1
XX1 alph beta step area r theta arc x bubble_volume_r-theta
.ends bubble_volume_theta

.subckt bubble_volume_r alph beta step area r theta arc x
Btheta 0 theta I=acos(cos(v(alph)+v(beta))-cos(v(alph))*v(step)/v(r)) rpar=1
XX1 alph beta step area r theta arc x bubble_volume_r-theta
.ends bubble_volume_r

.subckt id x id_x
G1 0 id_x x 0 1
R1 id_x 0 1
.ends id

.subckt bubble_volume_r-theta alph beta step area r theta arc x
Blength_past length_past 0 V=if(v(beta) > v(alph), v(r)-v(r)*cos(v(beta)-v(alph))-v(step)*cos(v(alph)), 0)
Btriangular_area N002 N003 V=0.5*cos(v(alph))*v(step)*v(x)
Bcurved_area N003 0 V=0.5*v(r)**2*(v(omega)-sin(v(omega)))
XX1 length_past r area_past NC_01 NC_02 chord
Barc 0 arc I=v(r)*(v(omega)) rpar=1
Ealph N001 0 alph 0 1
Egamma gamma N001 beta 0 1
Eomega omega gamma theta 0 1
Earea_past area N002 0 area_past 1
XX2 step nc
Bx1 0 x I=cos(v(beta)-v(omega)/2)*v(step)/sin(v(omega)/2-v(gamma)) rpar=1
.ends bubble_volume_r-theta

.subckt chord h radius A r theta
Btheta 0 theta I=2*acos(v(r)/v(radius)) rpar=1
BA 0 A I=0.5*v(radius)**2*(v(theta) - sin(v(theta))) rpar=1
Er r 0 radius h 1
.ends chord

.dc Varea -2 100 0.1 VBeta 0.01 0.02 .001
.backanno
.end
